US08754100B2
Synthesis of tert-butyl N′-[5-bromo-3-(3-trifluoromethylphenyl)pentanoyl]hydrazinecarboxylate
tert-Butyl N′-[5-hydroxy-3-(3-trifluoromethylphenyl)pentanoyl]hydrazinecarboxylate (2.0 g) was dissolved in methylene chloride (53 mL). Pyridine (1.29 mL), carbon tetrabromide (2.64 g) and triphenylphosphine (2.1 g) were added at room temperature, followed by stirring for 30 minutes. The reaction solution was partitioned with water and ethyl acetate. Then, the organic layer was washed with saturated ammonium chloride aqueous solution and a saturated sodium bicarbonate aqueous solution and dried over magnesium sulfate. Concentration under reduced pressure gave an oil. The oil was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 50%) to obtain the title compound (1.6 g).

reactant | tert-Butyl N′-[5-hydroxy-3-(3-trifluoromethylphenyl)pentanoyl]hydrazinecarboxylate | 2.0 g | OCCC(CC(=O)NNC(=O)OC(C)(C)C)C1=CC(=CC=C1)C(F)(F)F | C17H23F3N2O4
reactant | Pyridine | 1.29 mL | N1=CC=CC=C1 | C5H5N
reactant | carbon tetrabromide | 2.64 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 53 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N′-[5-bromo-3-(3-trifluoromethylphenyl)pentanoyl]hydrazinecarboxylate | 1.6 g | BrCCC(CC(=O)NNC(=O)OC(C)(C)C)C1=CC(=CC=C1)C(F)(F)F | C17H22BrF3N2O3
